US04640708
A mixture of quinoline-6-carboxaldehyde (5.29 g) and 1-triphenylphosphoranylidene-2-propanone (1.5 equiv) in dimethyl sulfoxide (100 ml) was stirred at room temperature for 24 hr. The solution was poured into water (600 ml) which was subsequently extracted with ethyl acetate. The dried (MgSO4) organic fraction was evaporated under reduced pressure and the residue was purified by column chromatography over silica with dichloromethane/ethyl acetate (4:1 v/v) elution to give 1-(quinolin-6-yl)but-1-ene-3-one as a white solid. Pmr spectrum (CDCl3 ; δ in ppm : 2.41 (3H,s); 6.83 (1H,d); 7.3-9.0 (7H,m).

reactant | quinoline-6-carboxaldehyde | 5.29 g | N1=CC=CC2=CC(=CC=C12)C=O | C10H7NO
reactant | 1-triphenylphosphoranylidene-2-propanone | 1.5 equiv | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | water | 600 ml | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-(quinolin-6-yl)but-1-ene-3-one | N1=CC=CC2=CC(=CC=C12)C=CC(C)=O | C13H11NO
